US08258322B2
This was synthesized using a synthesis based on that described by Archer et al., J. Org. Chem., Vol. 42, No. 13, 1977, page 2282, column 2 (see synthesis of (22)). A solution of 4-methoxy acetophenone (151.18 g, 1 mol) in 300 ml of anhydrous THF was added for 1 h to the solution of 1N methyl magnesium chloride (1360 ml, 1.36 mol) in THF while maintaining the internal temperature at 10-15° C. After completion of the addition, the reaction mixture was heated for about 4.5 hrs. After completion of the reaction (as determined by TLC), 0.2 L of water was slowly added during 3 hrs to quench the reaction while maintaining the internal temperature at <15° C. The reaction mixture was decanted from the precipitate and evaporated under vacuum. The remaining white residue was washed with methyl t-butyl ether (MTBE) (2×200 mL) and evaporated. The combined residue was dissolved in 400 mL of MTBE and 200 mL of water was added. The organic layer was extracted and the aqueous layer was washed with MTBE (3×50 mL). The combined organic extracts were dried over anhydrous sodium sulfate and evaporated to dryness to afford 156 g of 2-(4-Methoxy-phenyl)-propan-2-ol as yellow oil (94% yield, 96% purity by HPLC).

reactant | 4-methoxy acetophenone | 1 mol, 151.18 g | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | methyl magnesium chloride | 1.36 mol, 1N, 1360 ml | C[Mg]Cl
reactant | water | 0.2 L | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2-(4-Methoxy-phenyl)-propan-2-ol | 156 g, 94% yield | COC1=CC=C(C=C1)C(C)(C)O | C10H14O2
